US07189716B2
4-Amino-6-methyl-2-morpholin-4-yl-5-nitropyrimidine:
To pressure vessel, a mixture of commercially available 4-amino-2-chloro-6-methyl-5-nitropyrimidine (2.00 g, 10.6 mmol) and morpholine (1.85 mL, 21.2 mmol) in absolute ethanol (40 mL) was stirred at 82° C. for 16 hours. Absolute ethanol was evaporated in vacuo and the crude product was dissolved in a mixture of THF:EtOAc and this then subjected on top of a silica gel pad. Elution with EtOAc gave, after evaporation, the title compound as a yellow solid (2.47 g, 97%): IR (KBr, cm−1) 3468, 3307, 1615, 1560, 1247; 1H NMR (400 MHz, DMSO) δ 7.96 (s, 2H), 3.77 (br s, 4H), 3.62–3.60 (m, 4H), 2.53 (s, 3H); LCMS (+ESI, M+H+) m/z 240; HPLC: 100% (220 m).

reactant | 4-amino-2-chloro-6-methyl-5-nitropyrimidine | 10.6 mmol, 2.00 g | NC1=NC(=NC(=C1[N+](=O)[O-])C)Cl | C5H5ClN4O2
reactant | morpholine | 21.2 mmol, 1.85 mL | N1CCOCC1 | C4H9NO
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | 4-Amino-6-methyl-2-morpholin-4-yl-5-nitropyrimidine | NC1=NC(=NC(=C1[N+](=O)[O-])C)N1CCOCC1 | C9H13N5O3
